US07834014B2
7-(1-Benzyl-hexahydro-pyrrolo[3,4-b]pyrrol-5-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-5-ylamine
2-Benzyl-2,7-diazabicyclo[3.3.0]octane (1.2 mmol; see U.S. Pat. No. 5,071,999) was dissolved in 2 mL of DMSO along with 7-chloro-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-5-ylamine (0.25 mmol; see U.S. Pat. No. 6,222,035 B1) and CsF (0.3 mmol). The reaction mixture was stirred at 120° C. for 18 hours. It was then cooled to room temperature and purified by preparative HPLC to afford the title compound. 1H NMR (400 Hz, DMSO-d6) 7.60 (d, J=1.0 Hz, 1H), 7.28 (br s, 2H), 7.22 (d, J=3.6 Hz, 1H), 7.0-7.2 (m, 5H), 6.68 (dd, J=3.6 Hz, 1.0 Hz, 1H) 5.4 (s, 1H), 3.8 (br s, 2H), 2.2-3.2 (m, 10H). MS: m/z: 402 [M+H]+.

reactant | 2-Benzyl-2,7-diazabicyclo[3.3.0]octane | C(C1=CC=CC=C1)N1C2CNCC2CC1 | C13H18N2
reactant | CsF | 0.3 mmol | [F-].[Cs+]
reactant | 7-chloro-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-5-ylamine | ClC1=CC=2N(C(=N1)N)N=C(N2)C=2OC=CC2 | C9H6ClN5O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 7-(1-Benzyl-hexahydro-pyrrolo[3,4-b]pyrrol-5-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-5-ylamine | C(C1=CC=CC=C1)N1C2C(CC1)CN(C2)C2=CC=1N(C(=N2)N)N=C(N1)C=1OC=CC1 | C22H23N7O
